US05424183
A mixture of 8-chlorooctan-1-ol (25 g, 152 mmol) and sodium iodide (125 g, 834 mmol) in acetone (500 ml) was heated at reflux overnight. The mixture was filtered to remove precipitated sodium chloride, the filtrate was evaporated in vacuo, and the residue partitioned between water (200 ml) and ether (200 ml). The ether layer was separated, washed with 1M sodium thoisulfate solution (200 ml), and dried over anhydrous magnesium sulfate. Filtration, and solvent removal in vacuo, afforded 8-iodooctan-1-ol as a colorless oil (34.85 g, 90%).

reactant | 8-chlorooctan-1-ol | 152 mmol, 25 g | ClCCCCCCCCO | C8H17ClO
reactant | sodium iodide | 834 mmol, 125 g | [I-].[Na+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 8-iodooctan-1-ol | 34.85 g, 90% | ICCCCCCCCO | C8H17IO
